US04831030
A mixture of 2-methyl-4-(3-nitrophenyl)-6-phenyl-3-pyridinecarboxylic acid (5 g), triethylamine (1.5 g) and diphenylphosphorylazide (4.1 g) in benzene (50 ml) was refluxed for 2 hours. To the reaction mixture was added 2-dimethylaminoethylamine (1.6 g) and the mixture was further refluxed for 2 hours. After allowing to cool at ambient temperature, the reaction mixture was poured into a mixture of ethyl acetate (100 ml) and water (100 ml). The reaction mixture was adjusted to pH 2.0 with 10% hydrochloric acid. The aqueous layer was separated, washed with methylene chloride (100 ml) and adjusted to pH 9.0 with 10% aqueous sodium hydroxide. The resulting precipitates were collected by filtration, washed with water and dried in vacuo to give 3-[3-(2-dimethylaminoethyl)ureido]-2-methyl-4-(3-nitrophenyl)-6-phenylpyridine (1.87 g).

reactant | 2-methyl-4-(3-nitrophenyl)-6-phenyl-3-pyridinecarboxylic acid | 5 g | CC1=NC(=CC(=C1C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=CC=C1 | C19H14N2O4
reactant | diphenylphosphorylazide | 4.1 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2-dimethylaminoethylamine | 1.6 g | CN(CCN)C | C4H12N2
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | water | 100 ml | O | H2O
solvent | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
product | 3-[3-(2-dimethylaminoethyl)ureido]-2-methyl-4-(3-nitrophenyl)-6-phenylpyridine | 1.87 g | CN(CCNC(NC=1C(=NC(=CC1C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=CC=C1)C)=O)C | C23H25N5O3
